US06930109B2
(7,8-Dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol
To (1,3,4,6,7,8-hexahydro-2H-5-oxa-1-aza-phenanthren-6-yl)-methanol (0.90 g, 4.0 mmole) in 150 mL of toluene was added 1.8 g (20 mmole) of manganese dioxide. The mixture was refluxed under nitrogen for 24 hours. It was then filtered through celite, concentrated in vacuum and column chromatographed on silica gel with 0-2% methanol/chloroform as eluant. Concentration of the product fractions in vacuum gave 0.30 g of the title compound as an orange oil. 1H-NMR (CDCl3): doublet 8.8 δ (1H); doublet 8.4 δ (1H); doublet 7.6 δ (1H); doublet 7.35 δ (1H); doublet of doublets 7.25 δ (1H); multiplet 4.25 δ (1H); multiplet 3.95 δ (2H); multiplet 2.9 δ (2H); multiplet 2.05 δ (2H).

reactant | (1,3,4,6,7,8-hexahydro-2H-5-oxa-1-aza-phenanthren-6-yl)-methanol | 4.0 mmole, 0.90 g | N1CCCC2=C3OC(CCC3=CC=C12)CO | C13H17NO2
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 20 mmole, 1.8 g | [O-2].[O-2].[Mn+4]
product | (7,8-Dihydro-6H-5-oxa-1-aza-phenanthren-6-yl)-methanol | 0.30 g | N1=CC=CC2=C3OC(CCC3=CC=C12)CO | C13H13NO2
